US07666878B2
To an ice cold solution of (1H-pyrrolo[2,3-b]pyridine-3-yl)-acetic acid methyl ester (50 mg, 0.26 mmol) in DMF (1 mL), is added BEMP (0.122 mL, 0.42 mmol). The reaction mixture is stirred at ambient temperature for 40 minutes, then 3,4-dichlorobenzyl bromide (0.101 g, 0.42 mmol) is added and the reaction mixture is stirred for 16 hours at ambient temperature. The reaction mixture is poured into ice cold water (40 mL) and extracted with EtOAc, washed with brine, dried (Na2SO4), filtered and evaporated in vacuo. The crude product is purified by column chromatography on silica gel using a pre-packed Isolute™ silica column (2 g) eluting with 1:20 EtOAc/iso-hexane, furnishing [1-(3,4-dichloro-benzyl)-1H-pyrrolo[2,3-b]pyridine-3-yl]-acetic acid methyl ester; MH+=349.

reactant | (1H-pyrrolo[2,3-b]pyridine-3-yl)-acetic acid methyl ester | 0.26 mmol, 50 mg | COC(CC1=CNC2=NC=CC=C21)=O | C10H10N2O2
reactant | BEMP | 0.42 mmol, 0.122 mL | CCN(CC)P1(=NC(C)(C)C)N(CCCN1C)C | C13H31N4P
reactant | 3,4-dichlorobenzyl bromide | 0.42 mmol, 0.101 g | ClC=1C=C(CBr)C=CC1Cl | C7H5BrCl2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | [1-(3,4-dichloro-benzyl)-1H-pyrrolo[2,3-b]pyridine-3-yl]-acetic acid methyl ester | COC(CC1=CN(C2=NC=CC=C21)CC2=CC(=C(C=C2)Cl)Cl)=O | C17H14Cl2N2O2
